US08202989B2
A mixture of 4-methyl-1,2-phenylenediamine (0.1 mol) and 6-chloro isatoic anhydride (0.1 mol) in acetic acid (85%) was heated at 110° C. for 2 hrs. The mixture was poured into ice-cold water and 2-chloro-8-methyl-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepin-11-one was isolated (93%) after neutralisation and filtration.

reactant | 4-methyl-1,2-phenylenediamine | 0.1 mol | CC1=CC(=C(C=C1)N)N | C7H10N2
reactant | 6-chloro isatoic anhydride | 0.1 mol | ClC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4ClNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-chloro-8-methyl-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepin-11-one | ClC1=CC2=C(NC3=C(NC2=O)C=C(C=C3)C)C=C1 | C14H11ClN2O
